US08980911B2
Step l: Synthesis of N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]cyclopropanecarboxamide
N-[1-(2,6-dichloro-4-cyanobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]cyclopropane carboxamide (Compound No. 137) was prepared from N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropane carboxamide by treating with 4-cyano-2,6-dichlorobenzoyl chloride following a procedure as per step k and l in Example 27.

reactant | N-[1-(2,6-dichloro-4-cyanobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]cyclopropane carboxamide | ClC1=C(C(=O)N2C=CC=3C=NC(=CC32)NC(=O)C3CC3)C(=CC(=C1)C#N)Cl | C19H12Cl2N4O2
reactant | N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropane carboxamide | N1C=CC=2C=NC(=CC21)N(C(=O)C2CC2)C(C)(CC(C)(C)C)C | C19H27N3O
reactant | 4-cyano-2,6-dichlorobenzoyl chloride | C(#N)C1=CC(=C(C(=O)Cl)C(=C1)Cl)Cl | C8H2Cl3NO
product | N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]cyclopropanecarboxamide | ClC1=C(C(=O)N2C=CC=3C=NC(=CC32)NC(=O)C3CC3)C(=CC=C1)Cl | C18H13Cl2N3O2
